US09034921B2
(3aS,5R,6S,6aS)-6-Hydroxy-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxole-5-carboxylic acid
To a solution of (3aS,5S,6R,6aS)-5-(Hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxol-6-ol (14.6 g, 76.7 mmol), NaHCO3 (19.3 g, 230.3 mmol) and NaBr (1.6 g, 15.4 mmol) in acetone/water (120/40 mL) was added TEMPO (2,2,6,6-Tetramethyl-1-piperidinyloxy free radical) (0.24 g, 1.5 mmol) at room temperature. The mixture was cooled to 0° C., and trichloroisocyanuric acid (17.8 g, 76.7 mmol) was then added in portions. The suspension was stirred for 12 h at room temperature. Methanol (2.0 mL) was added and the mixture was stirred for 2 h at room temperature. The mixture was filtered, washed with acetone (twice, 20 mL per wash). The organic solvent was removed under vacuum and the aqueous layer was extracted with EtOAc and the organic layer was concentrated in vacuo. Acetone was added and the mixture was filtered. The filtrate was concentrated to afford the desired acid (9.0 g, 58%) as a pale yellow solid.

reactant | (3aS,5S,6R,6aS)-5-(Hydroxymethyl)-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxol-6-ol | 76.7 mmol, 14.6 g | OC[C@H]1[C@H]([C@@H]2OC(O[C@@H]2O1)(C)C)O | C8H14O5
reactant | NaHCO3 | 230.3 mmol, 19.3 g | C(=O)(O)[O-].[Na+]
reactant | NaBr | 15.4 mmol, 1.6 g | [Na+].[Br-]
reactant | trichloroisocyanuric acid | 76.7 mmol, 17.8 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | acetone water | 40 mL | CC(=O)C.O
catalyst | TEMPO | 1.5 mmol, 0.24 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | Methanol | 2.0 mL | CO | CH4O
product | (3aS,5R,6S,6aS)-6-Hydroxy-2,2-dimethyltetrahydrofuro[3,2-d][1,3]dioxole-5-carboxylic acid | 9.0 g, 58% | O[C@@H]1[C@@H](O[C@@H]2[C@H]1OC(O2)(C)C)C(=O)O | C8H12O6
